US08048884B2
1-Methyl-1H-pyrazole-4-sulfonic acid {2-[3′-(4-cyanomethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride
Dissolve 1-methyl-1H-pyrazole-4-sulfonic acid [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amide (0.250 g, 0.625 mmol) in DMA-H2O (or DME:H2O) (6 mL; 3:1 v/v, previously degassed with nitrogen). Add 4-cyanomethylphenyl boronic acid (0.121 g, 0.750 mmol), potassium carbonate (0.207 g, 1.500 mmol) and tetrakis(triphenylphosphine)palladium (0.036 g, 0.031 mmol). Stir the reaction mixture at 110° C. for 18 hr. Cool and dilute with ethyl acetate and water. Extract the aqueous layer with ethyl acetate and combine the organic layers. Dry the combined organic layers over sodium sulfate, filter, and concentrate. Purify by SCX chromatography, eluting with dichloromethane, dichloromethane:methanol 1:1, methanol, and 1N ammonia in methanol. Purify by silica gel chromatography eluting with hexanes:acetone 1:1 to afford the free base of the title compound (0.214 g, 71% yield).

reactant | 1-methyl-1H-pyrazole-4-sulfonic acid [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amide | 0.625 mmol, 0.250 g | ClC=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | C15H22ClN7O2S
reactant | DME | COCCOC | C4H10O2
reactant | 4-cyanomethylphenyl boronic acid | 0.750 mmol, 0.121 g | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | potassium carbonate | 1.500 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA H2O | CC(=O)N(C)C.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.031 mmol, 0.036 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Methyl-1H-pyrazole-4-sulfonic acid {2-[3′-(4-cyanomethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride | 0.214 g, 71% yield | Cl.C(#N)CC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | InChI=1S/C23H28N8O2S.ClH/c1-28-18-21(17-27-28)34(32,33)29(2)11-12-30-13-15-31(16-14-30)23-22(25-9-10-26-23)20-5-3-19(4-6-20)7-8-24;/h3-6,9-10,17-18H,7,11-16H2,1-2H3;1H
